US09260427B2
Prepared using General Procedures 18: To 4-benzyl 1-(tert-butyl) ((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-L-aspartate INT-47 (345 mg, 0.4 mmol) in THF (5 mL) was added 10% Pd/C (60 mg). The reaction vessel was flushed with hydrogen gas and the reaction was stirred vigorously under hydrogen overnight at room temperature. The reaction mixture was filtered to remove the catalyst, the solvent was removed, and the crude product was purified by chromatography 0-100% EA in hexane to afford 228 mg (66%) of (S)-4-(tert-butoxy)-3-((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)-4-oxobutanoic acid INT-44 as a white solid. LCMS-ESI (m/z) calculated for C43H54N4O7S: 770.4. found 771.3 [M+H]+, tR=4.21 min (Method 16).

reactant | 4-benzyl 1-(tert-butyl) ((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-L-aspartate | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@H](C(=O)N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C50H60N4O7S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | (S)-4-(tert-butoxy)-3-((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)-4-oxobutanoic acid | 228 mg, 66% | C(C)(C)(C)OC([C@H](CC(=O)O)NC([C@H](CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC)NC(=O)C=1SC(=CC1)C(C)(C)C)=O)=O | C43H54N4O7S
